US04715994
To a stirred solution of 0.36 gm (0.0014 mol) of 1-benzyloxycarbonylaminoethylphosphonous acid methyl ester in 3 ml of methanol at 0° C. was added a solution of sodium methoxide in methanol (0.77 ml of a 2N solution) dropwise over 10 minutes whereupon was then added methyl acrylate 0.126 ml (0.0014 mol). The reaction mixture was stirred 30 minutes at 0° C. and 4 hours at room temperature whereupon it was diluted with 1N HCl. The mixture was extracted twice with ethyl acetate. The organic fractions were dried over sodium sulfate, filtered through magnesium sulfate and evaporated in vacuo. The product mixture was purified by chromatography (silica, 9:1, ethylacetate:acetonitrile) to give 0.34 gm of methyl-1-benzyloxycarbonylaminoethyl-[2-carbomethoxy-1-ethyl]-phosphinate.

reactant | 1-benzyloxycarbonylaminoethylphosphonous acid methyl ester | 0.0014 mol, 0.36 gm | COP(O)C(C)NC(=O)OCC1=CC=CC=C1 | C11H16NO4P
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl acrylate | 0.0014 mol, 0.126 ml | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 3 ml | CO | CH4O
solvent | HCl | 1N | Cl | ClH
product | methyl-1-benzyloxycarbonylaminoethyl-[2-carbomethoxy-1-ethyl]-phosphinate | 0.34 gm | COP(=O)(CCC(=O)OC)C(C)NC(=O)OCC1=CC=CC=C1 | C15H22NO6P
